US09388189B2
c) (S)-4-Amino-N-(2-methoxyphenyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide
(S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (97 mg, 0.36 mmol), 4-amino-6-chloro-N-(2-methoxyphenyl)pyrimidine-5-carboxamide (100 mg, 0.36 mmol), DIEA (400 μl, 2.3 mmol) and cesium fluoride (166 mg, 1.09 mmol) were suspended in tert-butanol (10 ml) and the mixture was heated at 150° C. in a microwave oven for 35 min. The solvent was evaporated under reduced pressure and the reaction mixture was diluted with ethyl acetate and washed with saturated ammonium chloride solution and brine. After evaporation of the solvent, the residue was purified by flash chromatography using SP1® Purification System (30% to 70%, dichloromethane-ethyl acetate) to obtain 67 mg (37% yield) of the title compound.

reactant | (S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.36 mmol, 97 mg | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C15H16N4O
reactant | 4-amino-6-chloro-N-(2-methoxyphenyl)pyrimidine-5-carboxamide | 0.36 mmol, 100 mg | NC1=NC=NC(=C1C(=O)NC1=C(C=CC=C1)OC)Cl | C12H11ClN4O2
reactant | DIEA | 2.3 mmol, 400 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | cesium fluoride | 1.09 mmol, 166 mg | [F-].[Cs+]
solvent | tert-butanol | 10 ml | C(C)(C)(C)O | C4H10O
product | (S)-4-Amino-N-(2-methoxyphenyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide | 67 mg, 37% yield | NC1=NC=NC(=C1C(=O)NC1=C(C=CC=C1)OC)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C27H26N8O3
